US08309596B2
A) (S)-Hexahydro-cyclopenta[c]pyrrole-1,2-dicarboxylic acid 2-tert-butyl ester 1-ethyl ester
2.36 g of Di(tert-butyl)dicarbonate are added in 3-times to a mixture of 1.65 g of (S)-octahydro-cyclopenta[c]pyrrole-1-carboxylic acid ethyl ester and 1.45 g of NaCO3 in 20 ml of dioxane and 10 ml of H2O. The reaction mixture obtained is stirred at rt for 4 hours, the reaction is quenched with brine and the residue obtained is extracted with EtOAc. The organic phase obtained is washed with brine, dried and solvent is evaporated before purification by flash chromatography on silica gel is carried out (eluent: cyclohexane/EtOAc 9/1) to yield the title compound.

reactant | Di(tert-butyl)dicarbonate | 2.36 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-octahydro-cyclopenta[c]pyrrole-1-carboxylic acid ethyl ester | 1.65 g | C(C)OC(=O)[C@H]1NCC2C1CCC2 | C10H17NO2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 10 ml | O | H2O
product | (S)-Hexahydro-cyclopenta[c]pyrrole-1,2-dicarboxylic acid 2-tert-butyl ester 1-ethyl ester | C(C)OC(=O)[C@H]1N(CC2C1CCC2)C(=O)OC(C)(C)C | C15H25NO4
